US08012978B2
(S)—N-(2-(1-(chloromethyl)-5-hydroxy-2,3-dihydro-1H-benzo[e]indole-3-carbonyl)-1H-indol-5-yl)-3-(methyldisulfanyl)propanamide (DC101SMe)
To a solution of 5-hydroxy-3-amino-1-[S]-(chloromethyl)-1,2-dihydro-3H-benz(e)indole, hydrochloride salt (155 mg, 0.57 mmol) and 5-(3-(methyl-disulfanyl)propanamido)-1H-indole-2-carboxylic acid (170 mg, 0.55 mmol) in 7.0 ml of DMA was added EDC (300 mg, 1.56 mmol) under Ar. After stirred over night, the mixture was evaporated to dryness, purified by SiO2 chromatography (20% to 40% THF in toluene) and crystallized with THF/Toluene/Hexane to afford 218 mg (76%) of DC101SMe. 1H NMR (DMF-d7) 11.63 (s, 1H), 10.56 (s, 1H), 9.95 (s, 1H), 8.23 (s, 2H), 7.93 (d, 1H, J=8.3 Hz), 7.56 (dd, 1H, J=2.0, 8.1 Hz), 7.52 (s, 1H), 7.47 (dd, 1H, J=1.9, 8.9 Hz), 7.41 (d, 1H, J=1.7 Hz), 7.25 (d, 1H, J=1.7 Hz), 4.88 (dd, 1H, J=8.7, 11.0 Hz), 4.73 (dd, 1H, J=2.3, 10.9 Hz), 4.31 (m, 1H), 4.12 (dd, 1H, J=3.1, 11.0 Hz), 3.95 (dd, 1H, J=8.4, 11.2 Hz), 3.21 (t, 2H, J=7.1 Hz), 2.71 (t, 2H, J=7.1 Hz), 2.45 (s, 3H); 13C NMR 169.54, 161.06, 155.36, 134.21, 133.39, 132.54, 131.05, 128.39, 127.99, 123.98, 123.74, 123.46, 123.31, 118.88, 115.99, 112.87, 112.31, 106.40, 101.33, 55.93, 48.10, 42.61, 36.92, 30.81, 25.34. MS m/z+548.2 (M+Na), 550.2 (M+2+Na).

reactant | 5-hydroxy-3-amino-1-[S]-(chloromethyl)-1,2-dihydro-3H-benz(e)indole, hydrochloride salt | 0.57 mmol, 155 mg | Cl.OC=1C2=C(C=3[C@@H](CN(C3C1)N)CCl)C=CC=C2
reactant | 5-(3-(methyl-disulfanyl)propanamido)-1H-indole-2-carboxylic acid | 0.55 mmol, 170 mg | CSSCCC(=O)NC=1C=C2C=C(NC2=CC1)C(=O)O | C13H14N2O3S2
reactant | EDC | 1.56 mmol, 300 mg
solvent | DMA | 7.0 ml | CC(=O)N(C)C | C4H9NO
product | (S)—N-(2-(1-(chloromethyl)-5-hydroxy-2,3-dihydro-1H-benzo[e]indole-3-carbonyl)-1H-indol-5-yl)-3-(methyldisulfanyl)propanamide | ClC[C@@H]1CN(C=2C=C(C3=C(C12)C=CC=C3)O)C(=O)C=3NC1=CC=C(C=C1C3)NC(CCSSC)=O | C26H24ClN3O3S2
